US07662828B2
Trifluoroacetic acid 3.6 ml (49 mmol) was added to a solution of 2-(2-ethoxy-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester 300 mg (0.753 mmol) in CH2Cl2 (10 ml) under nitrogen as inert gas and stirring was performed for 2 h at RT. After removal of the solvent, the intermediate (2-ethoxy-N-(5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-benzamide trifluoroacetate) was dissolved in CH2Cl2 (10 ml) and DIPEA 225 μl and 3-chlorothiophene-2-carboxylic acid 129 mg (0.791 mmol) were added. After cooling the reaction mixture to 0° C., EDCI 158 mg (0.828 mmol) and HOAt 15 mg (0.11 mmol) were added. The reaction mixture was stirred for 1 h at 0° C. and then overnight at RT. After removal of the solvent, purification was performed by means of column chromatography and the product N-[6-(3-chloro-thiophene-2-carbonyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-2-ethoxy-benzamide 170 mg (0.38 mmol, 51% of theoretical) was obtained.

reactant | Trifluoroacetic acid | 49 mmol, 3.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(2-ethoxy-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 0.753 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)NC(C2=C(C=CC=C2)OCC)=O)CC1 | C21H26N4O4
reactant | DIPEA | 225 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chlorothiophene-2-carboxylic acid | 0.791 mmol, 129 mg | ClC1=C(SC=C1)C(=O)O | C5H3ClO2S
reactant | EDCI | 0.828 mmol, 158 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.11 mmol, 15 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[6-(3-chloro-thiophene-2-carbonyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-2-ethoxy-benzamide | 0.38 mmol, 170 mg, 51% | ClC1=C(SC=C1)C(=O)N1CC2=C(N=C(N=C2)NC(C2=C(C=CC=C2)OCC)=O)CC1 | C21H19ClN4O3S
